US07550505B2
2-(2,4,6-trimethoxybenzylthio)phenylboronic Acid
To a solution of 4.22 g (2-bromophenyl)(2,4,6-trimethoxybenzyl)sulfane (11.56 mmol) in 150 ml dry THF at −78° C. was added slowly 5.6 ml 2.5M n-BuLi. The solution was stirred at −78° C. for 25 minutes. 1.6 ml B(OMe)3 was added at −78° C. The reaction was stirred 2 hours at RT. 100 ml water was added, stirred overnight. The mixture was extracted with ethyl acetate (2×100 ml). The organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by gradient chromatography (hexane:ethyl acetate 60:40) yielded 1.762 g product (5.3 mmol, 46% yield).

reactant | (2-bromophenyl)(2,4,6-trimethoxybenzyl)sulfane | 11.56 mmol, 4.22 g | BrC1=C(C=CC=C1)SCC1=C(C=C(C=C1OC)OC)OC | C16H17BrO3S
reactant | n-BuLi | 2.5M, 5.6 ml | [Li]CCCC
reactant | B(OMe)3 | 1.6 ml | B(OC)(OC)OC | C3H9BO3
reactant | water | 100 ml | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 2-(2,4,6-trimethoxybenzylthio)phenylboronic Acid | 5.3 mmol, 1.762 g, 46% yield | COC1=C(CSC2=C(C=CC=C2)B(O)O)C(=CC(=C1)OC)OC | C16H19BO5S
